US04025562
(c) 13,13-dichlorobicyclo[10.1.0]tridecane
Cyclododecene (41.5 g), chloroform (225 ml), 50% aqueous sodium hydroxide solution (275 ml), dichloroethane (60 ml), sec-hexadecyl sec-dodecyl ethylsulphonium ethylsulphate (0.3 g) and n-octane (12 ml) were stirred together at ambient temperature for 10 hours. The product was recovered in a similar manner to that described in Example I(b) (yield 98%)

reactant | Cyclododecene | 41.5 g | C1=CCCCCCCCCCC1 | C12H22
reactant | sodium hydroxide | 275 ml | [OH-].[Na+]
reactant | dichloroethane | 60 ml | ClC(C)Cl | C2H4Cl2
reactant | sec-hexadecyl sec-dodecyl ethylsulphonium ethylsulphate | 0.3 g | C(C)OS(=O)(=O)[O-].C(C)(CCCCCCCCCCCCCC)[S+](CC)C(C)CCCCCCCCCC
reactant | n-octane | 12 ml | CCCCCCCC | C8H18
solvent | chloroform | 225 ml | C(Cl)(Cl)Cl | CHCl3
product | 13,13-dichlorobicyclo[10.1.0]tridecane | yield 98% | ClC1(C2CCCCCCCCCCC12)Cl | C13H22Cl2
